Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
pharmacologic stress echo on ___

 
History of Present Illness:
___ with CAD s/p CABG, sick sinus syndrome s/p PPM, transferred 
from ___ for evaluation of fever. He was admitted at ___ 
___ from ___ to ___ for fever of unclear etiology, 
CHF exacerbation, and acute respiratory failure requiring BiPAP. 
 
He initially presented in acute respiratory distress with two 
days of dyspnea, chills, night sweats. He had progressive 
dyspnea causing difficulty sleeping. He denied any chest pain, 
orthopnea, or leg swelling. He had recent URI symptoms. On 
morning of admission to ___, he appeared blue and his family 
called ___. On EMS transport, his oxygen saturation was 77%. He 
was placed on BiPAP and given ceftriaxone and azithromycin. 
Initial lactate was 6.7 now normalized. CTA negative for PE or 
pneumonia. BNP was elevated. He was diuresed for respiratory 
failure and improved with BiPAP. TTE showed EF 70%, moderate 
pulmonary hypertension. He is now back to room air. He had 
fevers and rigors causing elevated CK, now downtrending. He had 
a troponin elevation felt to be demand ischemia from CHF and was 
treated with aspirin and heparin gtt.  
He has had high fevers up to Tmax 104. He had transient AFib 
with RVR. No clear source. Flu swab negative. No 
lymphadenopathy, weight loss. Blood cultures negative. Urine was 
taken after antibiotics were given and culture has been 
negative. Abdominal US normal. CT abd/pelvis with thickening of 
left renal pelvis, no obvious stones, but done with contrast. He 
developed some small red nonblancing red petechiae-like lesions 
on bilateral arms. Of note, he completed a 3-week course of 
Bactrim two weeks ago for prostatitis.  
Petechiae noted on exam today, and with ESR/CRP elevated, there 
was concern for vasculitic or autoimmune process, and so ___ 
___ requested transfer to ___.  
On the floor, he has no acute complaints and corrobates the 
history. He is fully functional and independent at baseline.  

 
Past Medical History:
-CAD s/p 6-vessel CABG many years ago  
-CHF, diastolic, EF 70%  
-Sick sinus syndrome s/p PPM ___  
-Hypertension  
-Hyperlipidemia  
-History of gastric ulcer s/p surgery ___ years ago  
-BPH  

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:  
VS: T98.5 BP134/84 HR83 RR20 98RA  
GENERAL: Elderly appearing, no acute distress  
HEENT: No scleral icterus, MMM, OP clear  
NECK: JVP not elevated  
HEART: RRR, normal S1 S2, no murmurs  
LUNGS: Crackles at bases, L>R, no wheezing, unlabored 
respirations  
ABD: Normal bowel sounds, nontender, nondistended, well healed 
surgical scar  
EXT: No ___ edema, 2+ DP and ___ pulses  
NEURO: Alert and oriented  
SKIN: ___ nonblanching pink-red papules on upper chest, 
bilateral arms, new per patient  
GU: Foley in place with yellow urine  

PHYSICAL EXAM ON DISCHARGE:  
Vital Signs: 98.0-98.2;  115/57 (115-134/52-63);  69 (61-77);  
20 ___  99%RA (96-99)
General: Awake, interactive, sitting up in bed
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL 
NECK: Supple, JVP not elevated, no LAD 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Breathing comfortably at rest. No retractions or nasal 
flaring. Clear to auscultation at apices. Crackles at bases 
bilaterally. Some wheezes at bases bilaterally.
Abdomen: Three surgical scars - one at midline below the 
umblicus and two at 45 degress on the left and right sides. 
Soft, non-tender, non-distended, bowel sounds present
GU: No foley
Ext: Warm, well perfused, 2+ radial pulses, no clubbing, 
cyanosis or edema  
Neuro: AOx3, speech fluent, strength ___ in quadricept and 
deltoid. Moves all extermities spontaneously. Gait deferred.
Skin: Red non-blanching papules ~1mm in diameter on arms, trunk 
and back. About ___ total. ___ papules on each shin. Looks 
similar to cherry hemangiomas.  

 
Pertinent Results:
LABS ON ADMISSION:
==========================
___ 11:16PM   GLUCOSE-114* UREA N-16 CREAT-0.9 SODIUM-136 
POTASSIUM-3.4 CHLORIDE-99 TOTAL CO2-27 ANION GAP-13
___ 11:16PM   ALT(SGPT)-37 AST(SGOT)-46* CK(CPK)-289 ALK 
PHOS-57 TOT BILI-0.5
___ 11:16PM   ALBUMIN-3.7 CALCIUM-8.4 PHOSPHATE-3.0 
MAGNESIUM-2.1
___ 11:16PM   %HbA1c-6.2* eAG-131*
___ 11:16PM   TSH-6.7*
___ 11:16PM   FREE T4-0.70*
___ 11:16PM   WBC-6.0 RBC-4.86 HGB-10.9* HCT-35.5* MCV-73* 
MCH-22.5* MCHC-30.8* RDW-16.6*
___ 11:16PM   NEUTS-77.1* LYMPHS-15.8* MONOS-4.5 EOS-2.2 
BASOS-0.4
___ 11:16PM   PLT COUNT-152
___ 11:16PM   ___ PTT-34.1 ___
___ 10:34PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:34PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 10:34PM URINE  RBC->182* WBC-14* BACTERIA-NONE 
YEAST-NONE EPI-0
___ 10:34PM URINE  MUCOUS-RARE

IMAGING:
=======================
___ ABDOMINAL US  (___)
Limited study demonstrating increased hepatic parenchymal 
echogenicity consistent with fatty infiltration or other diffuse 
hepatocellular abnormality. Mild splenomegaly. Right renal 
cysts.  
 
___ CXR  (___)
No infiltrate identified. Elevated left hemidiaphragm. 
 
___ CT A/P WITH CONTRAST  (___)
1. Urothelial thickening of the left renal pelvis without 
evidence of  
hydronephrosis. This may represent inflammation possibly related 
to  
prior stone passage. Please note that malignancy cannot be 
excluded.  
Transitional cell carcinoma is unlikely as there is no  
hydronephrosis. Lymphoma remains in the differential diagnosis  
although is also considered unlikely due to the absence of  
lymphadenopathy. Please note that renal stones cannot be 
excluded as  
a noncontrast enhanced enhanced scan was not performed  
2. Enlarged prostate gland  
3. Right renal cysts  

___ CTA CHEST  (___)
No evidence of pulmonary embolism or aortic abnormality.  

___ TTE  (___)
Mild symmetric left ventricular hypertrophy with preserved 
systolic function. Mild functional mitral stenosis. Mild mitral 
regurgitation. Mild aortic regurgitation. Moderate pulmonary 
hypertension (TR gradient 46). EF 70%  

___ Chest PA and Lat (BI)
As compared to the previous image, no relevant change is seen.  
The clips of the CABG are in constant position. Unchanged normal 
alignment of the sternal wires. The left pectoral pacemaker is 
also unchanged.  Mild elevation of the left hemidiaphragm with 
and minimal left basilar atelectasis. No pleural effusions.  No 
pneumonia, no pulmonary edema. Slight rightward deviation of 
the trachea, caused by an elongated aortic arch. 

Pharmacologic stress echo ___
Conclusions  
The patient received intravenous dobutamine beginning at 15 
mcg/kg/min, increasing to 30mcg/kg/min and 45 mcg/kg/min in 3 
minute stages plus 0.25 mg atropine. The test was stopped 
because the target heart rate was achieved. There were no 
diagnostic ECG changes with exercise (see exercise report for 
details). There were normal blood pressure and heart rate 
responses to stress. 
.
Resting images were acquired at a heart rate of 75 bpm and a 
blood pressure of 134/70 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. At 
mid-dose dobutamine [30 mcg/kg/min; heart rate 93 bpm, blood 
pressure 158/70 mmHg), there was appropriate augmentation of all 
left ventricular segments. At peak dobutamine stress [45 
mcg/kg/min and 0.25 mg atropine; heart rate 127 bpm, blood 
pressure 164/70 mmHg), there appears to be new regional 
dysfunction in the distal lateral wall (see clip 27 compared to 
baseline clip 19 and early recovery clip 31). This may be due to 
image quality/off axis imaging.

IMPRESSION: No diagnostic ECG changes with possible 2D 
echocardiographic evidence of inducible ischemia to 
pharmacologic stress. 
Suboptimal study - sub-optimal image quality during 
post-exercise acquisitions.

LABS ON DISCHARGE:
==========================
___ 05:50AM BLOOD WBC-5.3 RBC-5.25 Hgb-11.7* Hct-38.3* 
MCV-73* MCH-22.2* MCHC-30.4* RDW-16.6* Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD Glucose-100 UreaN-21* Creat-1.0 Na-138 
K-3.8 Cl-98 HCO3-31 AnGap-13
___ 05:50AM BLOOD TotProt-6.3* Calcium-8.8 Phos-3.6 Mg-2.2 
Iron-56
___ 05:50AM BLOOD calTIBC-254* Ferritn-382 TRF-195*
___ 05:50AM BLOOD CRP-74.4*
 
Brief Hospital Course:
___ with CAD s/p multivessel CABG, CHF, sick sinus syndrome s/p 
pacemaker, transferred from ___ for further workup of 
fever and new onset rash and respiratory distress, afebrile and 
clinically well since his transfer from ___. 

ACUTE ISSUES:
=====================
# Fever -  The patient initially presented with fevers to 104.0, 
dyspnea and cyanosis at home. He was treated for CHF 
exacerbation and pneumonia with initial improvement in his sxs 
despite unimpressive CXR. His urine and blood cultures returned 
negative. His fever is not consistent with fever of unknown 
origin as that would require a duration of 3 weeks with no known 
source. The patient was afebrile during the hospitalization and 
antibiotics were discontinued on ___ without return of fever. 
Repeat chest x-ray showed no signs of pneumonia, pleural 
effusion or pulmonary edema. Urine culture showed no growth. 
Patient's presentation was most consistent with a viral lower 
respiratory infection triggering afib with RVR and a CHF 
exacerbation, which had been controlled prior to transfer. 
However, given the association with a new onset eruptive rash, 
immune or vascular etiologies were considered, and biopsies were 
taken by dermatology as below. 

# Rash - Patient was transferred from ___ because of concern 
that his skin rash was consistent with a vasculitis or 
autoimmune disorder. The rash consists of red papules ~0.5mm in 
diameter and looks to be consistent with cherry hemangiomas, 
which dermatology consult agredd with. However, the reason for a 
sudden eruption was unclear. Per dermatology, this could be seen 
with medications or multiple myeloma. Patient recently took a 
course of bactrim for UTI. Skin biopsies were taken, and 
pathology confirmed cherry hemangiomas. SPEP and UPEP were 
pending on discharge, and patient's PCP ___ with 
results.

# Left renal thickening - There was concern by ___ Urology, 
Dr. ___ renal stone given fever and abnormal findings 
on CT abd/pelvis, which was done with contrast. He requested a 
repeat CT w/o to look for stones and urine cytology. CT w/o 
contrast confirmed lack of stone. He has ___ appointment 
with urology to ___ the left renal thickening.

# CAD - Patient had 6 vessel CABG many years ago (unclear how 
many). He did not have any chest pain during the admission. The 
patient had nonspecific ST changes as well as TWI on EKG which 
were thought to be due to memory T waves, however given his 
history he underwent a pharmacologic stress echo.  This 
demonstrated no diagnostic ECG changes but with possible 2D 
echocardiographic evidence of inducible ischemia to 
pharmacologic stress. On further discussion with the reading 
cardiologist, given his presentation this was thought to be 
unlikely due to CAD/ischemia, may be due to image quality/off 
axis imaging.  His medical regimen was therefore optimized, afib 
treated as below and cardiology f/u scheduled.  Home aspirin, 
metoprolol, isosorbide mononitrate were continued during 
admission. 

# Afib: New onset since arrival at ___.  EKG done on the 
floor was consistent with coarse a.fib, and was reviewed with 
cardiology given new TWI, thought to be due to memory t waves in 
the setting of recent pacing. The patient now has a CHADS2 score 
of 3 based on CHF, HTN and A.fib as well as possible new onset 
diabetes (see issue of HBA1c below). He was started on warfarin 
prior to discharge and will ___ with his PCP for 
management.

# Elevated HBA1c
Patient had an elevated HBA1c of 6.2 which puts him in the range 
of prediabetes. 

# Hypothyroidism
The patient had an elevated TSH of 6.7 with a slightly decreased 
T4 of 0.7. This is consistent with primary hypothyroidism due to 
a dysfunction of the thyroid gland. Sick euthyroid syndrome 
presents with central hypothyroidism with decrease in both TSH 
and T4 so his lab abnormalities are likely due to another cause. 
Notably, furosemide is known to reduce T4 binding to TBG as 
found in (J Clin Endocrinol Metab. ___. He 
is not currently showing any signs of hypothyroidism so this was 
noted in transitional issues to be followed as an outpatient. 

# Elevated CPK to 1200 at OSH. Within normal range at 289 on 
___ at ___. Elevation was attributed to rigors, which is 
consistent with the normalization on repeat level. Simvastatin 
80mg was changed to atorvastatin 40mg as simvastatin doses above 
20mg have been shown to have increased risk of myalgias when 
taken with amlodipine. 

# CHF - Transthoracic echo showed EF 70%, LV hypertrophy and 
moderate pulmonary hypertension. BNP was elevated to 3000 at 
___. He was given furosemide for diuresis at ___ for 
treatment of CHF exacerbation and his symptoms have since 
improved. He had no JVD or peripheral edema on exam, and his 
home furosemide 60mg daily was continued.

# Anemia
The patient has been anemic since arrival with Hb from 
10.9-11.7. Ferritin was normal. 

CHRONIC ISSUES:
=======================
# HTN - Continued amlodipine  
# BPH - Continued doxazosin  

TRANSITIONAL ISSUES:
=========================
- Switched patient from simvastatin 80mg to atorvastatin 40mg as 
simvastatin doses above 20mg has been shown to have increased 
risk of myalgias when taken with amlodipine. 
- Patient's CT scan showed urothelial thickening of the left 
renal pelvis without evidence of hydronephrosis. Malignancy 
cannot be excluded. Patient has ___ with urology, urine 
cytology pending on discharge. Will need possible cystoscopy, 
repeat CT scan. BI urology ___.  
- Patient has dermatology ___ on ___ for suture 
removal and biopsy results. 
- SPEP and UPEP are pending on discharge. 
- Mild transaminitis during this admission. Please f/u on 
___. 
- Pt A1c was 6.2 this admission. Please continue to trend. 
- The patient has been anemic since arrival with Hb from 
10.9-11.7. However, ferritin was 384. 
- TSH 6.7 with free T4 0.7. Please repeat TFTs and consider 
starting levothyroxine if persistent. 
- Warfarin was started for new onset afib after discussing 
anticoagulation options with PCP/pt. Per pharmacy 
recommendations, started at 2.5mg qday and should check in 5 
days.
-? reversible ischemia on ECHO but given presentation with Afib 
and possible infectious process, cardiology did not feel that he 
need intervention. Needs close cardiology as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 
3. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
4. Furosemide 60 mg PO DAILY 
5. Amlodipine 5 mg PO DAILY 
6. Simvastatin 80 mg PO DAILY 
7. Doxazosin 4 mg PO HS 
8. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Doxazosin 4 mg PO HS 
4. Furosemide 60 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Atorvastatin 40 mg PO DAILY 
This replaces your simvastatin 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
8. Warfarin 2.5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
9. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
fever
rash

Secondary diagnoses:
left renal thickening
afib 
pre-diabetes
hypothyroidism
elevated CPK
___
CAD
anemia
Hypertension
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to participate in your care at ___. You were 
transferred from ___ for a fever and a rash that appeared 
suddenly. Since your transfer, you have been feeling great and 
not had any fevers. We consulted dermatology, who took a biopsy 
of your rash. You will need to ___ with them on ___ 
for the results of the biopsy and get your sutures removed. 

You also underwent a CT scan at ___ which showed some 
thickening in your kidney. You are to see our urologists to 
___ on this, and they will call you with an appointment. 
Please call their number listed below if you do not hear from 
them. 

We also started you on a medication called warfarin because you 
had an irregular heart rhythm. This medication reduces strokes 
in people with your condition, and it is very important that you 
take it as prescribed and visit your doctor to ___ levels 
for this medication. Please touch base with your primary care 
provider on ___ about when to check your INR. We also 
obtained an image of your heart, which was normal. 

We wish you all the best!
Your ___ team
 
Followup Instructions:
___